2101-07-18 09:22:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Patient was found to have decreased rectal tone on PE
   - Large coccyx skin breakdown present
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-7-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-7-18**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (97
   HR: 85 (67 - 115) bpm
   BP: 112/66(76) {87/49(57) - 119/73(82)} mmHg
   RR: 21 (18 - 35) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    668 mL
                                                                    892 mL
   PO:
             TF:
   IVF:
                                                                    278 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    240 mL
   Urine:
                                                                    710 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -42 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: 7.51/36/60/24/5
   Physical Examination
   Vitals: T: 98.4, BP: 118/70 P: 104 R: 29 O2: 90% on 4L
   General: Three-word dyspnea, AAOx3, in obvious respiratory distress.
   HEENT: PERRL, EOMI, oropharynx clear, dry mucous membranes
   Neck: Supple, JVP not elevated, no LAD, clear use of accessory muscles
   Lungs: Diffuse crackles over all lung fields
   CV: Tachycardic, sinus rhythm.  Normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen:  +BS, soft, diffusely tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: 3/5 strength in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**].  warm, well perfused, 2+ pulses,
   no clubbing, cyanosis or edema
   Labs / Radiology
   249 K/uL
   12.4 g/dL
   109 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   25 mg/dL
   100 mEq/L
   137 mEq/L
   38.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2101-7-17**]  05:03 PM
                             [**2101-7-17**]  06:10 PM
                             [**2101-7-18**]  04:22 AM
   WBC
   10.9
   10.5
   Hct
   38.3
   38.1
   Plt
   240
   249
   Cr
   0.8
   0.8
   TCO2
   30
   Glucose
   122
   109
   Other labs: PT / PTT / INR:13.0/23.0/1.1, Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan: The patient is a 71 yo man with h/o recently
   diagnosed IPF, who presents with a one-week history of worsening
   hypoxia.
   .
   #. IPF:  The patient has a h/o IPF, which was diagnosed 6 months ago.
   He is currently taking Prednisone, Acetylcystine, and Azathioprine.  He
   has had increasing hypoxia over the past week, with recent ABG of
   7.51/36/60/30.  CXR showed new LUL infiltrate.  DDx includes worsening
   of underlying IPF v. superimposed PNA v. PE v. viral infection.
    - Continue Ceftriaxone and Levofloxacin for [**9-7**] day course
    - Consider Chest CT to further evaluate pulmonary disease
    - Consider supplemental O2 for goal > 88%
    - Continue Mucomyst and Azathioprine
    - Start Methylprednisone 2g/day
    - Send Legionella Ag
    - Consider starting Warfarin for secondary prevention
    - Continue Protonix for GERD prevention
    - Continue Bactrim for PCP [**Name9 (PRE) 1694**] given prednisone use
   .
   # Back pain:  The patient has had increasing back pain for the past
   week.  He has decreased strength in his extremities bilaterally and one
   episode of fecal incontinence yesterday.  This is concerning for spinal
   cord compression.
    - Consider CT L-spine to evaluate for herniated disc, spinal cord
   compression
    - Continue Oxycodone prn for pain
   .
   # Coccyx ulcer:  The patient developed an ulcerated lesion in his
   coccyx last week.  He was started on Cephalexin by his PCP last Tuesday
   for possible cellulitis.  DDx includes Zoster v. sacral ulcer v.
   cellulitis.  The wound is currently dressed.
    - Examine wound when dressing is changed by nursing staff
    - Consider continuing Cephalexin if lesion appears infected
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-7-17**] 04:26 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI
   Disposition:  ICU

2101-07-18 10:18:00 Physician Attending Progress Note
Chief Complaint: dyspnea and back pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71M with recently diagnosed IPF, who presents with a one-week history
   of worsening hypoxia and back pain, admitted to MICU last night for
   close resp monitoring.
   24 Hour Events:
   -cont abx
   -chest CT done
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-7-18**] 12:00 AM
   Other medications:
   Levoflox, sqh, colace, ctx, bactrim, nac, azathiprine, zocor, mvi, fish
   oil, solumedrol 125 q8, pantopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-7-18**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (97
   HR: 81 (67 - 115) bpm
   BP: 117/67(76) {87/49(57) - 119/73(82)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    668 mL
                                                                    908 mL
   PO:
             TF:
   IVF:
                                                                    278 mL
                                                                    758 mL
   Blood products:
   Total out:
                                                                    710 mL
                                                                    240 mL
   Urine:
                                                                    710 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -42 mL
                                                                    668 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.51/36/60/24/5
   Physical Examination
   Awake, alert, oriented
   Crackles and diminished breath sounds throughout
   Distal hs, no clear m
   Abd soft ntnd
   Ext warm, no edema
   Strength 4-5 of 5 throughout, incl distal LE stregnth
   No perirectal numbness
   R buttock rash with vesicles
   Labs / Radiology
   12.4 g/dL
   249 K/uL
   109 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   25 mg/dL
   100 mEq/L
   137 mEq/L
   38.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2101-7-17**]  05:03 PM
                             [**2101-7-17**]  06:10 PM
                             [**2101-7-18**]  04:22 AM
   WBC
   10.9
   10.5
   Hct
   38.3
   38.1
   Plt
   240
   249
   Cr
   0.8
   0.8
   TCO2
   30
   Glucose
   122
   109
   Other labs: PT / PTT / INR:13.0/23.0/1.1, Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Imaging: ct chest: no infiltrate, no pe (prelim read), progression of
   infiltrates
   Microbiology: ngtd
   ECG: st
   Assessment and Plan
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   71M with recently diagnosed IPF with one-week history of acute on
   chronic respiratory failure and back pain associated with a new rash.
   Admitted to MICU last night for close resp monitoring, now with
   evidence of possible cord compression given poor rectal tone and
   history of fecal incontinence. Morning exam is reassuring against cord
   compression:
   -fu chest ct read
 no PE, progression of fibrosis
   -cont levofloxacin for now
   -bronch this afternoon if patient willing
   -mri spine
 prelim read: no cord compression or abscess
   - will consider more treatment of aeipf (heparin gtt, more steroids) vs
   broadening abx
   The buttock rash is concerning for zoster, especially given steroids.
   -- per derm, this is zoster and should be treated with valacyclovir. He
   will be on contact precautions.
   ICU Care
   Nutrition: start diet after
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-7-17**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNI (do not intubate)
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill

2101-07-19 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2101-7-18**] 11:28 AM
   MRI of L spine
 BRONCHOSCOPY - At [**2101-7-18**] 04:00 PM
   Bronch done in CDC
   - bronched and lavaged, no evidence of consolidation
   - derm: peri-anal rash is zoster -> started valacyclovir, respiratory
   and contact precautions; can start neurontin 300 mg tid if pain worsens
   - respiratory status remained stable
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2101-7-18**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-7-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-7-19**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 68 (68 - 122) bpm
   BP: 112/70(80) {103/51(64) - 130/80(108)} mmHg
   RR: 19 (18 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,495 mL
                                                                    314 mL
   PO:
                                                                    420 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    925 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    230 mL
   Urine:
                                                                    935 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General: Three-word dyspnea, AAOx3, in obvious respiratory distress.
   HEENT: PERRL, EOMI, oropharynx clear, dry mucous membranes
   Neck: Supple, JVP not elevated, no LAD, clear use of accessory muscles
   Lungs: Diffuse crackles over all lung fields
   CV: Tachycardic, sinus rhythm.  Normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen:  +BS, soft, diffusely tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: 3/5 strength in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**].  warm, well perfused, 2+ pulses,
   no clubbing, cyanosis or edema
   Labs / Radiology
   280 K/uL
   11.7 g/dL
   150 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   137 mEq/L
   34.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2101-7-17**]  05:03 PM
                             [**2101-7-17**]  06:10 PM
                             [**2101-7-18**]  04:22 AM
                             [**2101-7-19**]  02:30 AM
   WBC
   10.9
   10.5
   13.8
   Hct
   38.3
   38.1
   34.9
   Plt
   [**Telephone/Fax (3) 7858**]
   Cr
   0.8
   0.8
   0.7
   TCO2
   30
   Glucose
   122
   109
   150
   Other labs: PT / PTT / INR:13.0/23.0/1.1, Ca++:8.2 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan: The patient is a 71 yo man with h/o recently
   diagnosed IPF, who presents with a one-week history of worsening
   hypoxia.
   # IPF:  Diagnosed 6 months ago.  He is currently taking Prednisone,
   Acetylcystine, and Azathioprine.  He has had increasing hypoxia over
   the past week, but has been stable in the hospital.  Dx likely
   worsening of underlying IPF exacerbation. Bronch negative for
   consolidation.  CXR today concerning for increasing infiltrates
    - Continue Levofloxacin for [**9-7**] day course, consider stopping if cx
   negative
    - F/u final Chest CT
    - Supplemental O2 for goal > 88%, Mucomyst, Azathioprine,
    - Start Prednisone 60 mg daily
    - f/u Legionella Ag
    - Continue Protonix for GERD prevention
   # Back pain:  Stable overnight.   Patient had evidence of
   arachynoiditis on MRI at L3 to L5.
   - C/S Neurology regarding arachnoiditis
   - Continue Oxycodone prn for pain
   # Coccyx ulcer:  Dx  Zoster
    - Valcyte
    - C/S Dermatology today
    - C/S Wound Care
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-7-17**] 04:26 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With patient and wife
   [**Name (NI) 129**] status: DNI
   Disposition:  ICU for now

2101-07-19 10:52:00 Physician Attending Progress Note
Chief Complaint: AEIPF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71M with IPF, presents with AEIPF and perianal zoster, now s/p bronch
   on abx, antivirals, and steroids:
   24 Hour Events:
 MRI of L spine - [**2101-7-18**] 11:28 AM
 derm consult
 perianal zoster
 Bronch done in CDC - At [**2101-7-18**] 04:00 PM
   -no pus on bronch
   -stable resp status
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2101-7-18**] 09:00 AM
   Levofloxacin - [**2101-7-19**] 08:32 AM
   Valgancyclovir - [**2101-7-19**] 08:34 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-7-19**] 08:51 AM
   Pantoprazole (Protonix) - [**2101-7-19**] 08:51 AM
   Other medications:
   levoflox, sqh, bactrim, nac, azathioprine, protonix, ca, colace, mvi,
   fish oil, solumedrol 125 q8, simva, valcyte, ativan and percocet prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Epistaxis
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-7-19**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.6
   HR: 119 (68 - 122) bpm
   BP: 106/73(82) {103/51(64) - 130/80(108)} mmHg
   RR: 36 (18 - 44) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,495 mL
                                                                    582 mL
   PO:
                                                                    420 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    925 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    935 mL
                                                                    345 mL
   Urine:
                                                                    935 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash: buttock
   Neurologic: Attentive, Follows simple commands, oriented x 3
   Labs / Radiology
   11.7 g/dL
   280 K/uL
   150 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   25 mg/dL
   103 mEq/L
   137 mEq/L
   34.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2101-7-17**]  05:03 PM
                             [**2101-7-17**]  06:10 PM
                             [**2101-7-18**]  04:22 AM
                             [**2101-7-19**]  02:30 AM
   WBC
   10.9
   10.5
   13.8
   Hct
   38.3
   38.1
   34.9
   Plt
   [**Telephone/Fax (3) 7858**]
   Cr
   0.8
   0.8
   0.7
   TCO2
   30
   Glucose
   122
   109
   150
   Other labs: PT / PTT / INR:13.0/23.0/1.1, Ca++:8.2 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Imaging: cxr: worsening RLL opacity
   Microbiology: BAL culture pending
   Assessment and Plan
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   71M with IPF, presents with AEIPF and perianal zoster, now s/p bronch
   on abx, antivirals, and steroids. CXR and exam concerning for
   progression of acute disease.  Will follow-up cultures from BAL, and
   continue current steroids for now. Also, may need to consider
   alternative agents, higher steroid dose, and even broader abx. Will
   also plan to meet with family and patient will discuss possibility of
   poor outcome. Would involve palliative care this admission. For
   hypoxemia, will give a trial of diuresis though BNP normal and only 700
   cc positive for LOS.
   Spine arachnoiditis etiology is unclear, possibly related to viral
   infection? His symptoms are minimal at this time, although he remains
   incontinent of feces. The finding may be post-surgical. Will request
   neuro consultation.
   For zoster will continue Valacyclovir
   ICU Care
   Nutrition: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2101-7-17**] 04:26 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds, Family
   meeting pending , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 33 minutes
   Patient is critically ill

2101-07-20 07:27:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - neuro recs: LP for HSV pcr, VZV pcr
   - LP attempted, but unable to perform due to prior lumbar surgery
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2101-7-18**] 09:00 AM
   Levofloxacin - [**2101-7-19**] 08:32 AM
   Valgancyclovir - [**2101-7-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-7-19**] 08:51 AM
   Lorazepam (Ativan) - [**2101-7-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2101-7-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-7-20**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 70 (64 - 119) bpm
   BP: 121/73(85) {106/59(58) - 140/88(97)} mmHg
   RR: 28 (17 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,309 mL
                                                                    240 mL
   PO:
                                                                  1,200 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    109 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    410 mL
   Urine:
                                                                    905 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    404 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General: Three-word dyspnea, AAOx3, in obvious respiratory distress.
   HEENT: PERRL, EOMI, oropharynx clear, dry mucous membranes
   Neck: Supple, JVP not elevated, no LAD, clear use of accessory muscles
   Lungs: Diffuse crackles over all lung fields
   CV: Tachycardic, sinus rhythm.  Normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen:  +BS, soft, diffusely tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: Foley in place
   Ext: 3/5 strength in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 1858**].  warm, well perfused, 2+ pulses,
   no clubbing, cyanosis or edema
   Labs / Radiology
   316 K/uL
   11.9 g/dL
   121 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   27 mg/dL
   103 mEq/L
   141 mEq/L
   35.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2101-7-17**]  05:03 PM
                             [**2101-7-17**]  06:10 PM
                             [**2101-7-18**]  04:22 AM
                             [**2101-7-19**]  02:30 AM
                             [**2101-7-20**]  03:02 AM
   WBC
   10.9
   10.5
   13.8
   14.6
   Hct
   38.3
   38.1
   34.9
   35.4
   Plt
   [**Telephone/Fax (3) 7866**]16
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   30
   Glucose
   122
   109
   150
   121
   Other labs: PT / PTT / INR:13.0/23.0/1.1, Ca++:8.5 mg/dL, Mg++:2.5
   mg/dL, PO4:3.6 mg/dL
   Chest CT:  No evidence of central, lobar, or segmental PE or acute
   aortic syndrome.   2. Moderately progressive worsening of pulmonary
   fibrosis without focal consolidations.
   CXR ([**7-19**]):  Stable appearances since previous study with no new
   consolidation or PTX.
   Assessment and Plan
   Assessment and Plan: The patient is a 71 yo man with h/o recently
   diagnosed IPF, who presents with a one-week history of worsening
   hypoxia.
   # IPF:  Diagnosed 6 months ago.  He is currently taking Prednisone,
   Acetylcystine, and Azathioprine.  He has had increasing hypoxia over
   the past week, but has been stable in the hospital.  Dx likely
   worsening of underlying IPF exacerbation v. infection. Bronch negative
   for consolidation.  CXR today concerning for increasing infiltrates
    - Continue Levofloxacin for [**9-7**] day course, consider stopping if cx
   negative
    - Supplemental O2 for goal > 88%, Mucomyst, Azathioprine,
    - Start Prednisone 60 mg daily
    - f/u Legionella Ag
    - Continue Protonix for GERD prevention
   # Back pain:  Stable overnight.   Patient had evidence of
   arachynoiditis on MRI at L3 to L5.  Neuro was consulted and recommended
   LP to assess for VZV arachynoiditis.  LP was attempted but was
   unsuccessful.
   - Talk to neuro today re: possible LP
   - Continue Oxycodone prn for pain
   # Coccyx ulcer:  Dx  Zoster.  Started on Valcyte on [**7-18**].
    - Continue Valcyte
    - F/U Wound Care recs
    - Zoster precautions
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-7-17**] 04:26 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With patient and wife
   [**Name (NI) 129**] status: DNI
   Disposition:  ICU for now

2101-07-20 11:41:00 Physician Attending Progress Note
Chief Complaint: dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71M with IPF, presented with increased dyspnea, likely from AEIPF, and
   fecal incontinence with arachnoiditis of the L-spine,
   24 Hour Events:
   -unsuccessful LP attempt
   -resp status stable
   -lasix with some increased uop
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2101-7-18**] 09:00 AM
   Levofloxacin - [**2101-7-19**] 08:32 AM
   Valgancyclovir - [**2101-7-20**] 08:13 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2101-7-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2101-7-20**] 08:03 AM
   Pantoprazole (Protonix) - [**2101-7-20**] 08:14 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2101-7-20**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 112 (64 - 115) bpm
   BP: 138/75(88) {109/59(58) - 140/88(97)} mmHg
   RR: 43 (17 - 43) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,309 mL
                                                                    480 mL
   PO:
                                                                  1,200 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    109 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    650 mL
   Urine:
                                                                    905 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    404 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   316 K/uL
   121 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.1 mEq/L
   27 mg/dL
   103 mEq/L
   141 mEq/L
   35.4 %
   14.6 K/uL
      [image002.jpg]
   CSF
   ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                     Eos
                                    Atyps
                                   Macroph
                                    Other
   [1][**2101-7-20**] 11:32AM
                                    93[1]
                                     3*
                                      4
                                     38
                                     51
   3
                                      3
                                    1[2]
   SOURCE: LP CSF; TUBE 4
   [2][**2101-7-20**] 11:32AM
                                   163[3]
                                     3*
                                      7
                                     33
                                     53
                                      1
                                      2
                                      3
                                    1[2]
                             [**2101-7-17**]  05:03 PM
                             [**2101-7-17**]  06:10 PM
                             [**2101-7-18**]  04:22 AM
                             [**2101-7-19**]  02:30 AM
                             [**2101-7-20**]  03:02 AM
   WBC
   10.9
   10.5
   13.8
   14.6
   Hct
   38.3
   38.1
   34.9
   35.4
   Plt
   [**Telephone/Fax (3) 7866**]16
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   30
   Glucose
   122
   109
   150
   121
   Other labs: PT / PTT / INR:13.0/23.0/1.1, Ca++:8.5 mg/dL, Mg++:2.5
   mg/dL, PO4:3.6 mg/dL
   Imaging: cxr: improved interstitial opacities today
   Microbiology: bal: polys, no organisms
   Assessment and Plan
 HERPES ZOSTER
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   71M with IPF, presented with increased dyspnea, likely from AEIPF, and
   fecal incontinence with arachnoiditis of the L-spine, as well as
   zoster. Respiratory status remains tenuous but there are subtle signs
   of improvement today. No infection has been identified. Will continue
   levofloxacin for 10 days, will consider tapering the steroids slowly.
   Will also send some rheum serologies to look for other causes of
   worsening ILD, though likely very low yield. If there is progression of
   lung disease will consider broadening abx, and possibly using other
   immunosuppression. Furosemide may have had some positive effect, though
   hard to say. Will continue to monitor I/Os.
   Neurological evalution is being continued with the guidance of the
   neurology team. CSF as above
 concern for disseminated zoster.
   Valacyclovir switched to IV.
   Buttock rash from VZV is being exacerbated by irritation from stool due
   to incontinence and required aggressive nursing care.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines: 22 Gauge - [**2101-7-20**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor, Total time spent: 35 minutes
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);